US06528504B2
60% Sodium hydride (67 mg, 1.68 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (10 ml). The obtained suspension was stirred at room temperature for 30 minutes. 5,11-Dihydrodibenzo[b,e][1,4]oxazepine (300 mg, 1.53 mmol) was added to the suspension, and they were stirred at room temperature for 30 minutes and then at 50° C. for 30 minutes. A solution of (R)-3-chloro-1-(4-dimethylaminophenethyl)homopiperidine (470 mg, 1.68 mmol) in dimethyl sulfoxide (5 ml) was added dropwise into the obtained solution, and they were stirred at 50° C. for 3 hours. The reaction liquid was distributed in saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The organic layer was dried, and the solvent was evaporated under reduce pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1), then with hexane and ethyl acetate (4:1) and finally with hexane and ethyl acetate (1:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl) piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine in the form of a light yellow solid (224 mg, 33%).

reactant | Sodium hydride | 1.68 mmol, 67 mg | [H-].[Na+]
reactant | 5,11-Dihydrodibenzo[b,e][1,4]oxazepine | 1.53 mmol, 300 mg | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (R)-3-chloro-1-(4-dimethylaminophenethyl)homopiperidine | 1.68 mmol, 470 mg | Cl[C@H]1CN(CCCC1)CCC1=CC=C(C=C1)N(C)C | C16H25ClN2
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl) piperidine-2-ylmethyl] dibenzo[b,e][1,4]oxazepine | CN(C1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1)C | C29H35N3O
